US07786108B2
Step 3. Preparation of 5-Ethyl-2-isopropoxycarbonylamino-4-trifluoromethyl-benzoic acid methyl ester
Add 10% palladium on carbon (4.06 g, 12.22 mmol) to a solution of 2-isopropoxycarbonylamino-4-trifluoromethyl-5-vinyl-benzoic acid methyl ester (40.48 g, 122.19 mmol) in methanol (350 mL) in a Parr bottle. Subject the mixture to a hydrogen atmosphere at a pressure of 30 psi at room temperature with shaking on a Parr shaker apparatus for 2 h. Filter the mixture through Celite and remove the solvent under reduced pressure to provide the title compound as a white solid (39.07 g, 96%): TLC Rf 0.62 (3:1 hexanes/ethyl acetate); 1H NMR (CDCl3, 300 MHz) δ 1.13-1.42 (m, 9H), 2.71-2.80 (m, 2H), 3.89 (s, 3H), 5.21-5.27 (m, 1H), 7.98 (s, 1H), 8.81 (s, 1H), 10.23 (bs, 1H).

reactant | 2-isopropoxycarbonylamino-4-trifluoromethyl-5-vinyl-benzoic acid methyl ester | 122.19 mmol, 40.48 g | COC(C1=C(C=C(C(=C1)C=C)C(F)(F)F)NC(=O)OC(C)C)=O | C15H16F3NO4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 12.22 mmol, 4.06 g | [Pd] | Pd
solvent | methanol | 350 mL | CO | CH4O
product | 5-Ethyl-2-isopropoxycarbonylamino-4-trifluoromethyl-benzoic acid methyl ester | 39.07 g, 96% | COC(C1=C(C=C(C(=C1)CC)C(F)(F)F)NC(=O)OC(C)C)=O | C15H18F3NO4
